Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan / Elavil
 
Attending: ___.
 
Chief Complaint:
recurrent abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of gastroparesis s/p G tube placement awaiting G-J 
conversion, SIBO, eating disorder NOS presenting with recurrent 
LUQ pain. She had 3 hospitalizations in ___ for similar 
symptoms. She now presents with ___ days of escalating sharp, 
intermittent LUQ pain with associated diffuse abdominal ache 
similar to prior episodes attributed to gastroparesis flares, 
although she describes thiss episodes as worse compared to 
prior. She has associated nausea with two episodes of nonbloody 
emesis. She reports that she has lost 4 lbs over the preceding 
week. She has not used her G-tube for at least 3 weeks prior to 
admission. Denies F/C, dysuria, describes pain as ___. Last BM 
was 3 days prior to presentation. The planned conversion for her 
G tube to G-J has apparently been delayed because the size of 
tube that ___ has recommended is not yet available on the market. 
Per ED notes, initially seen at ___ and ___ here as 
this is where she gets care. Per notes, given morphine 15mg, 
Benadryl and Zofran 4mg at ___. 
 
In the ___ ED:
VS 97.6, 54, 98/59, 16, 100% RA
exam is benign abd soft, nontender
Labs notable for Chem 10 WNL, lipase 45, LFTs WNL, UA negative
WBC 7.1, Hb 10.2, plt 200

Received Zofran 4 mg IV x1, Benadryl 25 mg PO x1, Tylenol ___ 
mg PO x1
Explained to pt no plan for opioids

On arrival to the floor, pt appears uncomfortable, stating that 
she is at her "wits end," and that she wants pain relief so that 
she can sleep.

ROS: All else negative
 
Past Medical History:
Per OMR:
#Gastroparesis: gastric empyting study ___ shows ___ hour 
delayed emptying. First received G-J Tube ___, converted to 
G-tube ___. NJ tube placed ___ and on tube feeds currently. 

# Eating disorder NOS (thought to be etiology of gastroparesis). 
Treatment team includes psychiatrist, PCP, ___, and 
nutritionist.
# Small Intestinal Bacterial Overgrowth: treated with 
intermittent rifaximin  
# GERD  
# Bipolar disorder (prior episode of lithium toxicity requiring) 

 

 
Social History:
___
Family History:
Per OMR, confirmed with patient:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.

 
Physical Exam:
ADMISSION 
VS: 98.2, 96/58, 65, 15, 98% RA
Gen: Tearful female, intermittently appears quite uncomfortable 
and then smiling and engaging without distress
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera, contact 
lenses in place
Neck: supple, no LAD
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: G tube in place without surrounding erythema or drainage. 
Soft abd, nondistended, no rebound tenderness, +bowel sounds. 
Palpation with stethoscope without associated grimacing or 
guarding; manual examination with guarding and grimacing most 
pronounced at epigastrium
GU: No foley
Skin: No rash or lesions appreciated, umbilical piercing
Neuro: grossly intact

DISCHARGE
VS: 98.2 86/45 60 18 99%RA
Gen- comfortably sleeping, awaking to voice
Eyes - EOMI
ENT - OP clear, MMM
Lungs - breathing comfortably 
Abd - soft, mild tenderness to deep palpation
Skin - no rashes
Neuro - AOx3, moving all extremities
Psych - smiling and laughing at initial conversation, then 
occasionally tearful
 
Pertinent Results:
ADMISSION 
___ 03:25AM BLOOD WBC-7.1 RBC-3.71* Hgb-10.2* Hct-33.0* 
MCV-89 MCH-27.5 MCHC-30.9* RDW-13.9 RDWSD-44.6 Plt ___
___ 03:25AM BLOOD Glucose-85 UreaN-10 Creat-0.9 Na-138 
K-4.1 Cl-105 HCO3-25 AnGap-12
___ 03:25AM BLOOD ALT-11 AST-20 AlkPhos-59 TotBili-0.7

DISCHARGE
___ 07:23AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.0
___ 07:23AM BLOOD WBC-4.9 RBC-3.85* Hgb-10.6* Hct-34.0 
MCV-88 MCH-27.5 MCHC-31.2* RDW-13.8 RDWSD-43.9 Plt ___
___ 07:49AM BLOOD Glucose-103* UreaN-4* Creat-0.9 Na-136 
K-4.0 Cl-109* HCO3-23 AnGap-8

 
Brief Hospital Course:
This is a ___ year old female with past medilal history of eating 
disorder, gastroparesis s/p G-tube placement admitted ___ 
with LUQ pain and nausea similar to prior episodes of 
gastroparesis, tolerating slow advancing of diet, maintaining 
appropriate hydration/nutrition, ready for discharge.

# Left Upper Quadrant Abdominal pain / Gastroparesis / 
Constipation - patient admitted with several days of LUQ pain, 
progressive, associated with nausea.  She reported 1 episode 
diarrhea and ___ episode emesis.  Reported similar to prior 
episodes of gastroparesis.  Nausea and vomiting quickly 
resolved, but patient reported significant pain with any PO 
intake, even small amounts of liquids.  Patient seen by primary 
gastroenterologist, who felt that these residual symptoms were 
not likely to be gastroparesis, and more likely to be related to 
adjusting the stretch of using her stomach after a prolonged 
period of not eating.  Longitudinally there has been a concern 
for potential behavioral component to her concerns, especially 
given report of prior eating disorder.  During this admission, 
given reported pain, patient very focused on re-obtaining 
jejunal access (in the past she has had a GJ tube as well as a 
NJ tube, and is now awaiting her G tube to be converted back to 
a GJ tube).  Per my discussion with primary GI doctor, prior 
jejunal access did not result in decreased pain and patient 
would infrequently utilize.  As a result, jejunal access does 
not appear to be an appropriate therapy for her at this time.  
Over course of admission, diet was advanced and patient was 
weaned from IV medications.  Course complicated by constipation 
which resolved with miralax.  Of note, given that opiate 
medications could worsen potential gastroparesis they were not 
used for pain control during this admission. At discharge, 
patient demonstrate an ability to safely maintain 
hydration/nutrition status.  Patient able to be discharged home. 
 Continued home gabapentin, metaxalone, miralax.

# Anxiety / Bipolar - continue home clonazepam, Lithium 
Carbonate, trazodone

# Hypothyroidism - continued home Levothyroxine 

# GERD - continued home omeprazole 

# Migraines - continued home sumatriptan prn 

TRANSITIONAL ISSUES
- Discharged home
- No opiates given for pain control during this admission 
- Emergency contact: ___ ___ (mother)
 
Medications on Admission:
The Preadmission Medication list is accurate - unable to add 
domperidone to PAML as it is not FDA approved
1. ClonazePAM 3 mg PO QHS 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Lithium Carbonate 600 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. TraZODone 200 mg PO QHS 
8. Sumatriptan Succinate 25 mg PO DAILY:PRN migraine 
9. dextroamphetamine-amphetamine 10 mg ORAL DAILY 
10. metaxalone 800 mg oral DAILY:PRN abd spasm 
11. Gabapentin 25 mg PO QHS 
12. Domperidone unknown dose

 
Discharge Medications:
1. ClonazePAM 3 mg PO QHS 
2. Gabapentin 25 mg PO QHS 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Lithium Carbonate 600 mg PO BID 
5. metaxalone 800 mg oral DAILY:PRN abd spasm 
6. Omeprazole 20 mg PO BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Sumatriptan Succinate 4 mg SC BID:PRN headache 
9. TraZODone 200 mg PO QHS 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*9 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# LUQ Abdominal pain / Gastroparesis 
# Hypothyroidism
# GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___:

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and nausea.  You were seen by your primary 
gastroenterologist, and treated with bowel rest, and IV 
medications for symptom-control.  You improved and are now ready 
for discharge. 

Please make an appointment with your primary care doctor within 
2 weeks of discharge
 
Followup Instructions:
___